US09382238B2
To a mixture of 2-chloro-4-nitropyridine (170 g, 1070 mmol) in THF (2 L) was added sodium ethanolate (109.45 g, 1610 mmol) slowly at 0° C. The mixture was stirred at 25° C. for 12 h. LCMS and TLC (PE/EA=5:1, Rf=0.6) showed the reaction was finished. The mixture was filtered, and most solvent of the filtrate was removed in vacuo. The residue was extracted with EA (800 mL×3), and the organic layer was washed with saturated NaCl solution (1 L), dried over Na2SO4, filtered, and concentrated to give crude 2-chloro-4-ethoxypyridine (157 g, 1.0 mol, 92% yield) as a solid: 1H NMR (400 MHz, CD3OD) δ 8.15 (d, J=6.0 Hz, 1H), 6.99 (d, J=2.0 Hz, 1H), 6.91-6.89 (m, 1H), 4.16-4.14 (m, 2H), 1.41-1.38 (m, 3H); ES-LCMS m/z 158 (M+H).

reactant | 2-chloro-4-nitropyridine | 1070 mmol, 170 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium ethanolate | 1610 mmol, 109.45 g | C(C)[O-].[Na+]
reactant | EA | CC(OCC)=O | C4H8O2
solvent | THF | 2 L | C1CCOC1 | C4H8O
product | 2-chloro-4-ethoxypyridine | 1.0 mol, 157 g, 92% yield | ClC1=NC=CC(=C1)OCC | C7H8ClNO
